US05093353
3-(3,4-dichlorophenoxy)-1-bromopropane
A mixture of 3.26 g (20 mmol) of 3,4-dichlorophenol, 20.2 g (100 mmol) of 1,3-dibromopropane, 6.80 g (20 mmol) of tetra-n-butyl ammonium hydrogen sulfate, 40 ml of 1N sodium hydroxide, and 40 ml of methylene chloride was stirred rapidly at reflux. After 2 hours, the mixture was allowed to cool and the layers were separated. The organic layer was washed with water, dried over magnesium sulfate, filtered and the solvent removed under reduced pressure. The residue was chromatographed over silica gel using methylene chloride/hexane as eluent. The title compound (1.58 g) was found to be homogeneous by thin layer chromatography (10% by volume of methylene chloride/hexane on silica gel plates).

reactant | 3,4-dichlorophenol | 20 mmol, 3.26 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | 1,3-dibromopropane | 100 mmol, 20.2 g | BrCCCBr | C3H6Br2
reactant | sodium hydroxide | 1N, 40 ml | [OH-].[Na+]
catalyst | tetra-n-butyl ammonium hydrogen sulfate | 20 mmol, 6.80 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-(3,4-dichlorophenoxy)-1-bromopropane | ClC=1C=C(OCCCBr)C=CC1Cl | C9H9BrCl2O
